US08975400B2
4-(4-chloro-3-fluorophenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 4-fluorobenzaldehyde and 4-chloro-3-fluorophenol.

reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-chloro-3-fluorophenol | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
product | 4-(4-chloro-3-fluorophenoxy)benzaldehyde | ClC1=C(C=C(OC2=CC=C(C=O)C=C2)C=C1)F | C13H8ClFO2
